US07060827B2
N2-(3-Aminophenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine and 2-bromoethanol were reacted together to give N4-(3,4-ethylenedioxyphenyl)-N2-[3-(hydroxyethylamino)phenyl]-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 15.44 min.; purity: 98.6%; MS (m/e): 398.05 (MH+).

reactant | N2-(3-Aminophenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C18H16FN5O2
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | N4-(3,4-ethylenedioxyphenyl)-N2-[3-(hydroxyethylamino)phenyl]-5-fluoro-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)NCCO | C20H20FN5O3
